US08980899B2
The intermediate 2-(1-methoxy-2-(3-nitrophenyl)ethylidene)malononitrile (0.97 g, 4.0 mmol) was combined with hydrazine (0.3 mL, 6.0 mmol; Sigma-Aldrich) in 10 mL EtOH for 90 minutes at room temperature. Afterwards the reaction was concentrated in vacuo, suspended in brine, and extracted with chloroform (3×50 mL). The organic layer was dried over MgSO4, then filtered and concentrated in vacuo to afford 3-(3-nitrobenzyl)-5-amino-1H-pyrazole-4-carbonitrile (ESI-MS m/z [M+H]+ found 244.5, calculated 244.1). The product was combined with formamide (1.5 mL) and heated to 160° C. overnight. H2O was added to the cooled reaction, and the precipitate was filtered and dried to afford 3-(3-nitrobenzyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 271.4, calculated 271.1). This recovered solid (50 mg, 0.19 mmol) was then added to a solution containing benzyl bromide (0.1 mL, 0.28 mmol), K2CO3 (0.125 g), and DMF (1.0 mL). The reaction mixture was purged with argon and stirred overnight at 80° C. The reaction was filtered to remove solid K2CO3. The filtrate was combined with brine, and the organic product was extracted in CH2Cl2 (3×50 mL) to afford 3-(3-nitrobenzyl)-1-benzyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 361.4, calculated 361.1). This intermediate was then mixed with excess zinc dust, 5 mL THF, 0.4 mL HOAc for 12 hours under argon at room temperature. Afterwards the reaction was filtered through Celite®, extracted with EtOAc, and concentrated in vacuo to afford 3-(3-aminobenzyl)-1-benzyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 331.5, calculated 331.2). To the reduced precursor, molar equivalents of 3-(trifluoromethyl)benzoyl chloride (Sigma-Aldrich) were added dropwise in ice-cold CH2Cl2. The reaction proceeded until completion as judged by TLC, was concentrated in vacuo, resuspended in 50:50 H2O—CH3CN, and purified on a C18 column in CH3CN/H2O/0.1% TFA (1-100% gradient) to yield final compound BB5 N-(3-((4-amino-1-benzyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)methyl)phenyl)-3-(trifluoromethyl)benzamide (ESI-MS m/z [M+H]+ found 503.4, calculated 503.2).

reactant | 2-(1-methoxy-2-(3-nitrophenyl)ethylidene)malononitrile | 4.0 mmol, 0.97 g | COC(CC1=CC(=CC=C1)[N+](=O)[O-])=C(C#N)C#N | C12H9N3O3
reactant | hydrazine | 6.0 mmol, 0.3 mL | NN | H4N2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-(3-nitrobenzyl)-5-amino-1H-pyrazole-4-carbonitrile | [N+](=O)([O-])C=1C=C(CC2=NNC(=C2C#N)N)C=CC1 | C11H9N5O2
